US07727979B2
6-bromo-2,2-dimethyl-cyclohexanone (Starting Product for Example C-26)
The bromination of 2,2-dimethyl-cyclohexanone takes place in a manner similar to that described above for the preparation of 2-bromo-4-isopropyl-cyclohexanone. The title compound is reacted as a crude product without further characterization.

reactant | 2,2-dimethyl-cyclohexanone | CC1(C(CCCC1)=O)C | C8H14O
reactant | 2-bromo-4-isopropyl-cyclohexanone | BrC1C(CCC(C1)C(C)C)=O | C9H15BrO
product | 6-bromo-2,2-dimethyl-cyclohexanone | BrC1CCCC(C1=O)(C)C | C8H13BrO
